Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
abdominal pain
 
Major Surgical or Invasive Procedure:
___ 8 ___ pigtail catheter placed ___ right abdominal wall 
abscess

 
History of Present Illness:
___ had an MVC ___ ___, and underwent ex lap, debridement of
a liver lac, ileocectomy, and ileocolostomy.  He was taken back
to the OR for bleeding <24 hours later.  Postoperatively, he
became septic and was found to have a large R posterior necrotic
liver lesion; a drain was placed.  Subsequently, he had multiple
admissions for antibiotics and drain exchanges/placements.  On
___, he underwent ex lap, LOA, liver debridement, and
ileocolectomy w/ ileocolonic anastomosis.  A JP was placed
intraoperatively.  He was discharged on ___ on Augmentin.  
The
JP was d/c'd on ___.  On ___, he presented with a R flank
mass which ultimately proved to be an abscess ___ his previous JP
tract; it was drained percutaneously.  He was discharged home on
___ on Augmentin and cipro.  The drain was removed on
___.  

He presents today with a painful R flank mass ___ the same
location.  He reports it developed 2 days ago.  He has not had
f/c/n/v/d.  CT again demonstrated an abscess.  ___ drained 40cc 
of
pus and placed a pigtail drain.

 
Past Medical History:
MVC with liver lacs leading to necrotic liver lesion

PSH:
Exploratory laparotomy, washout of hemoperitoneum, debridement 
of laceration of the liver, ileocecectomy, ileocolostomy.
s/p Left ankle ORIF
s/p removal of adenoids
___:
1. Exploratory laparotomy and lysis of adhesions.
2. Debridement of liver.
3. Ileocolectomy with ileocolonic anastomosis
 
Social History:
___
Family History:
Noncontributory
 
Physical Exam:
 99.4  87  136/88  20  99%RA
Gen: NAD, A&O x 3
___: RRR
Pulm: CTA b/l
Abd: soft, ND, tender around drain site, otherwise NT, +BS, 
drain
w/ purulent brown material
Ext: no c/c/e

Labs:
13.0>42.4<169
N 82.4 L 10.2

BUN 13 Cr 0.7

___ 10.8 PTT 30.5 INR 1.0

 
Pertinent Results:
___ 06:25AM BLOOD WBC-6.4 RBC-4.48* Hgb-12.6* Hct-38.6* 
MCV-86 MCH-28.2 MCHC-32.7 RDW-14.5 Plt ___
___ 12:50PM BLOOD ___ PTT-30.5 ___
___ 06:25AM BLOOD Glucose-106* UreaN-15 Creat-0.8 Na-137 
K-4.3 Cl-99 HCO3-33* AnGap-9
___ 05:55AM BLOOD ALT-49* AST-35 AlkPhos-115 TotBili-1.0
___ 06:25AM BLOOD Calcium-9.2 Phos-3.7 Mg-2.4

___ 4:30 pm ABSCESS     Site: ABDOMEN
      RIGHT ABDOMINAL WALL ABCESS. 

   GRAM STAIN (Final ___: 
      4+   (>10 per 1000X FIELD):   POLYMORPHONUCLEAR 
LEUKOCYTES. 
      4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S). 
      3+  ___ per 1000X FIELD):   GRAM POSITIVE ROD(S). 
      2+   ___ per 1000X FIELD):   GRAM POSITIVE COCCI. 
                                    ___ PAIRS AND SINGLY. 
      SMEAR REVIEWED; RESULTS CONFIRMED. 

   WOUND CULTURE (Preliminary): 
      THIS IS A CORRECTED REPORT ___. 
      Reported to and read back by ___. ___ (___) ___ 
@ 10:45 AM. 
      This culture contains mixed bacterial types (>=3) so an 
abbreviated
      workup is performed. Any growth of P.aeruginosa, S.aureus 
and beta
      hemolytic streptococci will be reported. IF THESE BACTERIA 
ARE NOT
      REPORTED BELOW, THEY ARE NOT PRESENT ___ this culture.. 
      WORK-UP REQUESTED BY ___. ___ (___)  AND ___. 
___. 
      CITROBACTER FREUNDII COMPLEX.    MODERATE GROWTH. 
         This organism may develop resistance to third 
generation
         cephalosporins during prolonged therapy. Therefore, 
isolates that
         are initially susceptible may become resistant within 
three to
         four days after initiation of therapy.  For serious 
infections,
         repeat culture and sensitivity testing may after 
initiation of
         therapy.  For serious infections, repeat culture and 
sensitivity
         testing may. 
      STAPHYLOCOCCUS, COAGULASE NEGATIVE.    QUANTITATION NOT 
AVAILABLE. 
         PREVIOUSLY REPORTED AS PROBABLE ENTEROCOCCUS ___. 
      VIRIDANS STREPTOCOCCI. 
         MODERATE GROWTH OF THREE COLONIAL MORPHOLOGIES. 

                              SENSITIVITIES: MIC expressed ___ 
MCG/ML
                      
_________________________________________________________
                             CITROBACTER FREUNDII COMPLEX
                             |   
CEFEPIME--------------   <=1 S
CEFTAZIDIME-----------   <=1 S
CEFTRIAXONE-----------   <=1 S
CIPROFLOXACIN---------<=0.25 S
GENTAMICIN------------   <=1 S
MEROPENEM-------------<=0.25 S
PIPERACILLIN/TAZO-----   <=4 S
TOBRAMYCIN------------   <=1 S
TRIMETHOPRIM/SULFA----   <=1 S

   ANAEROBIC CULTURE (Preliminary): 
      RESULTS PENDING WORK-UP OF ANAEROBES REQUESTED BY ___. 
___.
 
Brief Hospital Course:
___ male admitted to Dr. ___ service with abdominal 
pain. An abdominal CT was done demonstrating recurrent RLQ 
abscess near colonic anastomosis concening for fistula. 
Recurrent air and fluid collection was seen where a pigtail 
catheter was previously, just deep to the peritoneum, with a 
tract extending through the right-sided abdominal wall 
musculature into the subcutaneous fat. This collection was 
adjacent to the ileocecal anastomosis. No enteric contrast 
within the collection to indicate leak at the anastomosis. He 
underwent placement of an 8 ___ drain into the right 
abdominal abscess with removal of 40cc purulence. Drainage was 
sent to micro. Vanco and Zosyn were started after drainage of 
the abscess. ID was consulted. Micro isolated Citrobacter 
sensitive to cipro, 3 colonies of Strep veridans and coag 
negative staph. ID recommended Levaquin 500 mg daily and Flagyl 
m500 mg TID until f/u drain study ___ 3 weeks. 

WBC decreased to 6.4 from 13. He remained afebrile and drain 
output initially was 40cc. This further decreased to 25cc. 
Patient will flush at home and continue antibiotics.

 
Medications on Admission:
Tylenol, oxycodone, ibuprofen

 
Discharge Medications:
1. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg 1 tablet(s) by mouth q 8 hours Disp #*30 
Tablet Refills:*0
2. Levofloxacin 500 mg PO Q24H 
RX *levofloxacin [Levaquin] 500 mg 1 tablet(s) by mouth Daily 
Disp #*30 Tablet Refills:*1
3. MetRONIDAZOLE (FLagyl) 500 mg PO Q8H 
RX *metronidazole 500 mg 1 tablet(s) by mouth three times a day 
Disp #*90 Tablet Refills:*1
4. Acetaminophen 650 mg PO Q6H:PRN pain 
Maximum 3 grams daily (8 of the 325 mg tablets maximum) 
5. Ibuprofen 400 mg PO Q8H:PRN pain 
Maximum 1200 mg daily 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Abdominal wall abscess
h/o liver lac s/p MVC, liver abscess
h/o ileocecectomy, ileocolostomy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr. ___ office ___ if you have 
any fevers (temperatures of 101 or greater), chills, nausea, 
vomiting, worsening abdominal pain, drain site appears red or 
has drainage, drain output changes character 
(color/consistency/odor) or drainage stops. 

Empty drain and record all outputs. Change gauze dressing to 
abdominal drain daily and as needed.

Flush drain twice daily with 5 cc sterile saline 

Continue antibiotics
 
Followup Instructions:
___